US06903101B1
Preparation of 1-[4-(4-pyridyloxy)phenylamino]-4-(4-pyridylmethyl)phthalazine
A mixture of 1-chloro-4-(4-pyridylmethyl)phthalazine (for preparation see Novartis patent WO98135958, 11.02.98) (0.540 g, 2.11 mmol) and 4-(4-aminophenoxy)pyridine (1.18 g, 6.33 mmol) in anhydrous 1-butanol (8.4 mL) was stirred under argon at 130° C. for 18 h. The reaction mixture was quenched with saturated aqueous potassium carbonate (˜50 mL) and then extracted with dichloromethane (3×100 mL). The combined organic phases were dried over MgSO4, filtered, and concentrated. Purification by flash column chromatography in 7:11:2 v/v acetone-dichloromethane-methanol provided the title compound as an oil (0.340 g, 0.84 mmol, 40% yield). 1H-NMR (DMSO-d6) 9.26 (s, 1H), 8.58 (d, J=8.3, 1H), 8.41 to 8.44 (m, 4H), 8.10 (d, J=8.2, 11H), 7.90 to 8.03 (m, 4H), 7.30 (d, J=5.9, 2H), 7.17 (d, J=9.2, 2H), 6.91 (d, J=5.8, 2H), 4.56 (s, 2H); MS ES 406 (M+H)+, calc. 405; TLC (1:7:12 v/v methanol-acetone-dichloromethane) Rf=0.08.

reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 2.11 mmol, 0.540 g | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
reactant | 4-(4-aminophenoxy)pyridine | 6.33 mmol, 1.18 g | NC1=CC=C(OC2=CC=NC=C2)C=C1 | C11H10N2O
solvent | 1-butanol | 8.4 mL | C(CCC)O | C4H10O
product | 1-[4-(4-pyridyloxy)phenylamino]-4-(4-pyridylmethyl)phthalazine | 0.84 mmol, 0.340 g, 40% yield | N1=CC=C(C=C1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C25H19N5O
